US07427631B2
1-(Toluene-4-sulfonyl)-propan-2-one
Was prepared according to Crandall et al. J. Org. Chem. 1985, (8) 50, 1327-1329 from sodium p-toluensulfinate dihydrate (4.2 g, 18 mmol), chloroacetone (1.0 mL, 12 mmol), n-tetrabutylammonium bromide (0.30 g) and water-benzene-acetone 4:3:3 (10 mL). Work-up and chromatography on silica of the crude using ethyl acetate/n-heptane (1:3 through 1:2) as eluent gave 2.4 g (95%) of the title product as an oil which crystallised on standing in the fridge.

reactant | sodium p-toluensulfinate dihydrate | 18 mmol, 4.2 g | O.O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | chloroacetone | 12 mmol, 1.0 mL | ClCC(C)=O | C3H5ClO
reactant | water benzene acetone | 10 mL | O.C1=CC=CC=C1.CC(=O)C
solvent | ethyl acetate n-heptane | C(C)(=O)OCC.CCCCCCC
product | 1-(Toluene-4-sulfonyl)-propan-2-one | 2.4 g, 95% | C1(=CC=C(C=C1)S(=O)(=O)CC(C)=O)C | C10H12O3S
